US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 4-acetyl-phenylboronic acid to give 1-{4-[3-(5-methyl-1H-pyrazol-3-ylamino)-6-methoxy-isoquinolin-1-yl]-phenyl}-ethanone. LC-MS m/e 373(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | 4-acetyl-phenylboronic acid | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
product | 1-{4-[3-(5-methyl-1H-pyrazol-3-ylamino)-6-methoxy-isoquinolin-1-yl]-phenyl}-ethanone | CC1=CC(=NN1)NC=1N=C(C2=CC=C(C=C2C1)OC)C1=CC=C(C=C1)C(C)=O | C22H20N4O2
